US04520025
A solution of 7-(3-aminopropoxy)-2-methyl-1,2,3,4-tetrahydroisoquinoline (5.43 g) in methanol (70 ml) is slowly added over a period of 45 minutes to a stirred solution of 3,4-dimethoxy-1,2,5-thiadiazole-1-oxide (3.68 g) in 375 ml of methanol at a temperature of 3° C. The reaction mixture is stirred for an additional one hour and 25.0 g anhydrous ammonia is bubbled in over a period of 10 minutes. The resulting mixture is warmed to RT with stirring and the solution is evaporated in vacuo. The near-white solid residue is dissolved in hot 95% ethanol, filtered hot and rinsed with hot ethanol. The solution is cooled with stirring, then stirred in an ice bath for 30 minutes and filtered. The resulting solid is washed with cold ethanol and diethyl ether and dried in air, giving the desired tetrahydroisoquinoline thiadiazole-1-oxide as a white powder, M.P. 193°-194° C.

reactant | 7-(3-aminopropoxy)-2-methyl-1,2,3,4-tetrahydroisoquinoline | 5.43 g | NCCCOC1=CC=C2CCN(CC2=C1)C | C13H20N2O
reactant | 3,4-dimethoxy-1,2,5-thiadiazole-1-oxide | 3.68 g | COC1=NS(N=C1OC)=O | C4H6N2O3S
solvent | methanol | 70 ml | CO | CH4O
solvent | methanol | 375 ml | CO | CH4O
product | tetrahydroisoquinoline thiadiazole-1-oxide | S1(N=NC=C1)=O.C1NCCC2=CC=CC=C12 | InChI=1S/C9H11N.C2H2N2OS/c1-2-4-9-7-10-6-5-8(9)3-1;5-6-2-1-3-4-6/h1-4,10H,5-7H2;1-2H
